US09255089B2
5-Bromo-6-methylquinolin-2(1H)-one (103.5 mg, 0.435 mmol) was suspended into DMF (3 mL). To the suspension, was added NaH (17.4 mg 60% in mineral oil) at room temperature. After 2 h stirring, CF3CH2OTf (201.8 mg, 0.869 mmol) was added into the mixture at room temperature. The reaction mixture was stirred for 2 h at the same temperature. The reaction mixture was quenched with water (30 mL). The whole was extracted with AcOEt (30 mL×3). Organic layer was washed with brine (30 mL) and dried over Na2SO4. The solvent was removed under a reduced pressure to give the crude product. Gilson PHPLC purification gave 5-bromo-6-methyl-1-(2,2,2-trifluoroethyl)quinolin-2(1H)-one.

reactant | 5-Bromo-6-methylquinolin-2(1H)-one | 0.435 mmol, 103.5 mg | BrC1=C2C=CC(NC2=CC=C1C)=O | C10H8BrNO
reactant | NaH | 17.4 mg | [H-].[Na+]
reactant | CF3CH2OTf | 0.869 mmol, 201.8 mg | C(F)(F)(F)COS(=O)(=O)C(F)(F)F | C3H2F6O3S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-bromo-6-methyl-1-(2,2,2-trifluoroethyl)quinolin-2(1H)-one | BrC1=C2C=CC(N(C2=CC=C1C)CC(F)(F)F)=O | C12H9BrF3NO
